Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
latex / codeine / Sulfa (Sulfonamide Antibiotics) / Compazine / 
Tetracyclines / Dilaudid / silicone
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ F with hx cerebral palsy, renal calculi, COPD, 
neurogenic
bladder, OA, nephrocutaneous fistula; ___ notable for remote lap
CCY, attempted L nephrectomy at ___ ___, post op course
complicated by multiple SBOs, most recently admitted early
___ for SBO, discharged from ___ on ___,
re-presented to ___ on ___ with recurrent bilious
emesis, nausea, diffuse abdominal pain, transferred to ___ for
? surgical management of SBO. Per pt, L nephrectomy was 
attempted
and aborted ___ intraabdominal adhesions, did not have any SBO
prior to procedure. Had NGT placed at OSH that partially 
relieved
symptoms, although continues to have intermittent abd pain even
after NGT decompression. Has had chronic nephrocutaneous fistula
that intermittently drains purulent vs serous fluid. 
 
Past Medical History:
Past Medical History: COPD, renal calculi, cerebral palsy,
neurogenic bladder, OA, nephrocutaneous fistula

Past Surgical History: Lap ccy, attempted L nephrectomy (___)
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Physical Exam:
Vitals: 98.1 107 116/62 20 94% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, NGT in place
with scant bilious output
CV: RRR
PULM: No respiratory distress
ABD: Soft, mildly distended, diffusely tender, no rebound or
guarding, well healed vertical midline scar, L flank apparent
nephrocutaneous fistula
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 07:30AM BLOOD WBC-12.1* RBC-5.03 Hgb-11.3 Hct-37.9 
MCV-75* MCH-22.5* MCHC-29.8* RDW-20.9* RDWSD-53.3* Plt ___
___ 06:30AM BLOOD WBC-16.8* RBC-5.87* Hgb-13.1 Hct-43.5 
MCV-74* MCH-22.3* MCHC-30.1* RDW-21.2* RDWSD-51.3* Plt ___
___ 06:30AM BLOOD Neuts-69.3 ___ Monos-7.7 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-11.67* AbsLymp-3.25 AbsMono-1.30* 
AbsEos-0.23 AbsBaso-0.10*
___ 07:30AM BLOOD Glucose-106* UreaN-11 Creat-0.3* Na-140 
K-3.3 Cl-99 HCO3-28 AnGap-16
___ 06:30AM BLOOD Glucose-119* UreaN-15 Creat-0.6 Na-139 
K-4.4 Cl-95* HCO3-29 AnGap-19
___ 06:30AM BLOOD ALT-23 AST-24 AlkPhos-141* TotBili-0.2
___ 07:30AM BLOOD Calcium-8.1* Phos-3.4 Mg-2.0
___ 06:30AM BLOOD Albumin-3.8 Calcium-9.4 Phos-4.8* Mg-2.0
___ 06:35AM BLOOD Lactate-1.2

___ CT A/P:
1. Dilation of small bowel consistent with small bowel 
obstruction measuring  up to 5.3 cm in diameter with transition 
point in the left upper quadrant. No evidence of free air. No 
evidence of bowel 
wall thickening or enhancement abnormalities. 
2. Severe cortical thinning is noted the left renal cortex with 
multiple 
cystic changes. Perinephric stranding is noted adjacent to the 
left kidney.   A large staghorn renal calculus appears to 
present in addition to renal  contrast excretion. Unchanged 
nephrocutaneous fistula. 
3. Right adnexal cyst. Follow-up pelvic ultrasound is 
recommended patient is  postmenopausal. 
  
RECOMMENDATION(S): Follow-up pelvic ultrasound is recommended to 
further 
characterize adnexal cyst if patient is postmenopausal. 

 
Brief Hospital Course:
The patient was transferred to ___ and admitted to the General 
Surgical Service on ___ for evaluation and treatment of 
abdominal pain, nausea, and vomiting.  Admission 
abdominal/pelvic CT revealed dilation of small bowel consistent 
with small bowel obstruction. The patient was hemodynamically 
stable. She was managed nonoperatively with bowel rest, 
nasogastric tube for stomach decompression, IV fluid 
resuscitation, Foley catheter for close urine output monitoring, 
and serial abdominal exams. She received a 500cc bolus of fluid 
for low urine output with good effect. The NGT put out 
approximately 1250cc of bilious drainage on HD1.

Due to her history of nephrocutaneous fistula, Urology was 
consulted. They recommended packing left back wound with sterile 
gauze twice a day. They felt there is no urgent need for a 
nephrectomy at this time but that patient would benefit from a 
left nephrectomy in the future due to chronic 
xanthogranulomatous pyelonephritis. 

Due to the patient receiving all of her medical care at ___, the 
patient and her mother expressed their desire to be transferred 
there for ongoing care. Accordingly, arrangements were made and 
the patient was transferred to ___ on HD2. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient remained NPO with a 
nasogastric tube and Foley catheter in place. 

 
Medications on Admission:
Medications - Prescription
BUPROPION HCL [WELLBUTRIN SR] - Wellbutrin SR 100 mg
tablet,sustained-release. 1 tablet(s) by mouth qam -  
(Prescribed
by Other Provider)
DANTROLENE - dantrolene 50 mg capsule. 1 capsule(s) by mouth
twice a day -  (Prescribed by Other Provider)
DIAZEPAM - diazepam 5 mg tablet. 1 tablet(s) by mouth twice a 
day
-  (Prescribed by Other Provider)
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. 1  as needed for rhinitis -  (Prescribed by
Other Provider)
LORAZEPAM - lorazepam 1 mg tablet. 1 tablet(s) by mouth three
times a day as needed for anxiety -  (Prescribed by Other
Provider)
METHENAMINE HIPPURATE - methenamine hippurate 1 gram tablet. 1
tablet(s) by mouth at bedtime -  (Prescribed by Other Provider)
MONTELUKAST [SINGULAIR] - Singulair 10 mg tablet. 1 tablet(s) by
mouth at bedtime -  (Prescribed by Other Provider)
NAPROXEN - naproxen 500 mg tablet. 1 tablet(s) by mouth twice a
day -  (Prescribed by Other Provider)
OXYBUTYNIN CHLORIDE - oxybutynin chloride ER 10 mg
tablet,extended release 24 hr. 1 tablet(s) by mouth twice a day 
-
(Prescribed by Other Provider)
OXYCODONE - oxycodone 5 mg tablet. 1 tablet(s) by mouth  as
needed for pain -  (Prescribed by Other Provider)
PREGABALIN [LYRICA] - Lyrica 150 mg capsule. 1 capsule(s) by
mouth four times a day -  (Prescribed by Other Provider)
RANITIDINE HCL [ZANTAC] - Zantac 300 mg tablet. 1 tablet(s) by
mouth at bedtime -  (Prescribed by Other Provider)
SERTRALINE - sertraline 50 mg tablet. 1 tablet(s) by mouth at
bedtime -  (Prescribed by Other Provider)
TAMSULOSIN - tamsulosin 0.4 mg capsule. 1 capsule(s) by mouth
once a day -  (Prescribed by Other Provider)
 
Medications - OTC
ASCORBIC ACID (VITAMIN C) - ascorbic acid (vitamin C) 500 mg
tablet. 1 tablet(s) by mouth at bedtime -  (Prescribed by Other
Provider)
CALCIUM CARBONATE - calcium carbonate 600 mg (1,500 mg) tablet. 
1
tablet(s) by mouth twice a day -  (Prescribed by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000
unit capsule. 1 capsule(s) by mouth qam -  (Prescribed by Other
Provider)
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 capsule(s) 
by
mouth twice a day -  (Prescribed by Other Provider)
IRON - Dosage uncertain -  (Prescribed by Other Provider)
LORATADINE [CLARITIN] - Claritin 10 mg tablet. 1 tablet(s) by
mouth daily -  (Prescribed by Other Provider)
MULTIVITAMIN [DAILY MULTI-VITAMIN] - Daily Multi-Vitamin tablet.
1 tablet(s) by mouth  -  (Prescribed by Other Provider)
SENNOSIDES [SENNA] - senna 8.6 mg tablet. 2 tablet(s) by mouth 
at
bedtime -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Miconazole Powder 2% 1 Appl TP BID:PRN itching  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction, Left Staghorn Renal Calculus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___, 

You were transferred to ___ from ___ 
for continued care regarding your frequent bowel obstructions 
and chronic issues with you left kidney. Following initial 
evaluation by the General Surgery and Urology teams, you were 
admitted to the ACS Team for further monitoring and care of your 
bowel obstruction. Your fluid status was monitored with a Foley 
Catheter and a Nasogastric Tube. 

Shortly after admission, you and your mother expressed your 
desires to be transferred to ___ for further care. We 
facilitated this transfer and continued your conservative 
management and care until then.

Good Luck
 
Followup Instructions:
___